US08975400B2
4-(2-fluoro-4-formylphenoxy)-2-(trifluoromethyl)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 4-hydroxy-2-(trifluoromethyl)-benzonitrile.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 4-hydroxy-2-(trifluoromethyl)-benzonitrile | OC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H4F3NO
product | 4-(2-fluoro-4-formylphenoxy)-2-(trifluoromethyl)benzonitrile | FC1=C(OC2=CC(=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)C=O | C15H7F4NO2
